US06432990B1
NaH (7.0 g, 60% oil dispersion, 0.176 mol) was added portionwise over five minutes to a stirred slurry of 2-(hydroxymethyl)-α-(methoxyimino)-N-methyl-benzeneacetamide (35.8 g, 0.161 mol) in 700 mL THF. After the resulting mixture was stirred for 3.25 hours, 2,6-difluoropyridine (15.4 g, 0.134 mol) was added neat over a 20 minute period, and the mixture was stirred overnight at room temperature. Water (250 mL) was added, THF was removed in vacuo, and the aqueous residue was extracted three times with 250 mL CH2Cl2. The combined extracts were washed with brine (250 mL), filtered through Na2SO4, and concentrated in vacuo. The residue was purified by silica gel chromatography (5% CH3CN in CH2Cl2) to yield 2-[[[6-fluoro-2-pyridinyl]oxy]methyl]-α-(methoxyimino)-N-methyl-benzeneacetamide (33.2 g, 78%).

reactant | NaH | 0.176 mol, 7.0 g | [H-].[Na+]
reactant | 2-(hydroxymethyl)-α-(methoxyimino)-N-methyl-benzeneacetamide | 0.161 mol, 35.8 g | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
reactant | 2,6-difluoropyridine | 0.134 mol, 15.4 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | Water | 250 mL | O | H2O
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 2-[[[6-fluoro-2-pyridinyl]oxy]methyl]-α-(methoxyimino)-N-methyl-benzeneacetamide | 33.2 g, 78% | FC1=CC=CC(=N1)OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C16H16FN3O3
